US07247633B2
2-[{4-(2-Pyridinyl)benzyl}oxy]-6-(1-piperazinyl)pyrazine
The title compound was prepared according to the procedure of example 50, step 2, starting from 2-chloro-6-[{4-(2-pyridinyl)benzyl}oxy]pyrazine (2.73 g, 9.16 mmol; obtained according to the procedure of example 50, step 1, starting from 4-(2-pyridinyl)benzyl alcohol*), piperazine (2.41 g, 27.9 mmol) and K2CO3 (1.33 g, 9.62 mmol) with the exception that the final filtration through alumina was omitted. The yield of the of the title compound was 2.06 g (65%) which was obtained as a beige colored oil that solidified when refrigerated. Purity 100% (HPLC). MS m/z 347 (M)+. HRMS m/z calcd for C20H21N5O (M)+ 347.1746, found 347.1749. *Obtained by reduction (NaBH4) of 4-(2-pyridyl)benzaldehyde.

reactant | 2-chloro-6-[{4-(2-pyridinyl)benzyl}oxy]pyrazine | ClC1=NC(=CN=C1)OCC1=CC=C(C=C1)C1=NC=CC=C1 | C16H12ClN3O
reactant | 4-(2-pyridinyl)benzyl alcohol | N1=C(C=CC=C1)C1=CC=C(CO)C=C1 | C12H11NO
reactant | piperazine | 27.9 mmol, 2.41 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 9.62 mmol, 1.33 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-pyridyl)benzaldehyde | N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
product | 2-[{4-(2-Pyridinyl)benzyl}oxy]-6-(1-piperazinyl)pyrazine | N1=C(C=CC=C1)C1=CC=C(COC2=NC(=CN=C2)N2CCNCC2)C=C1 | C20H21N5O
